US04002640
5 G. of 1-amino-2-nitro-4-thiocyanatobenzene in 20 ml. of dimethylformamide is heated under nitrogen with 0.97 g. of sodium borohydride in 20 ml. of dimethylformamide at not greater than 30° C. The mixture is stirred at 15° to 20° C for 1 hour, then treated with 6 g. of 1-iodo-2,2,3,3-tetrafluoropropane. The mixture is heated to 100° C for 4 hours, then cooled and diluted with water. The mixture is extracted with chloroform and the chloroform is evaporated to yield a red oil. Chromatography on silica gel gives 2-nitro-4-(2,2,3,3-tetrafluoropropylthio) aniline.

reactant | 1-amino-2-nitro-4-thiocyanatobenzene | NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C7H5N3O2S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 1-iodo-2,2,3,3-tetrafluoropropane | ICC(C(F)F)(F)F | C3H3F4I
solvent | water | O | H2O
product | 2-nitro-4-(2,2,3,3-tetrafluoropropylthio) aniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)SCC(C(F)F)(F)F | C9H8F4N2O2S
